US03950393
2-Amino-N-cyclohexyl-5-methoxy-N-methyl-benzylamine was prepared from 2-amino-5-methoxy-benzyl alcohol, thionyl chloride and N-methyl-cyclohexylamine analogous to Example 1. Proof of structure by IR- and UV-spectra. IR-spectrum (methylenechloride):

reactant | 2-amino-5-methoxy-benzyl alcohol | NC1=C(CO)C=C(C=C1)OC | C8H11NO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | N-methyl-cyclohexylamine | CNC1CCCCC1 | C7H15N
solvent | methylenechloride | C(Cl)Cl | CH2Cl2
product | 2-Amino-N-cyclohexyl-5-methoxy-N-methyl-benzylamine | NC1=C(CN(C)C2CCCCC2)C=C(C=C1)OC | C15H24N2O
